US20010056123A1
Step 5: Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide:
0.68 g (3.45 mmol) of 3-(2-aminoethoxy)benzonitrile monohydrochloride was dissolved in 20 ml of N,N-dimethylformamide (dehydrated). 0.9 g (3.14 mmol) of 4-(3,4-dimethoxybenzoyl)benzoic acid, 0.47 g (3.45 mmol) of 1-hydroxybenzotriazole, 0.48 ml (3.45 mmol) of triethylamine and 0.66 g (3.45 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were added to the obtained solution, and they were stirred overnight. The solvent was evaporated, and the residue was treated with ethyl acetate as the extraction solvent in an ordinary manner to obtain the title compound.

reactant | 3-(2-aminoethoxy)benzonitrile monohydrochloride | 3.45 mmol, 0.68 g | Cl.NCCOC=1C=C(C#N)C=CC1
reactant | 4-(3,4-dimethoxybenzoyl)benzoic acid | 3.14 mmol, 0.9 g | COC=1C=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=CC1OC | C16H14O5
reactant | 1-hydroxybenzotriazole | 3.45 mmol, 0.47 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 3.45 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.45 mmol, 0.66 g | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[2-(3-cyanophenoxy)ethyl]-4-(3,4-dimethoxybenzoyl)benzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC1 | C25H22N2O5
